US08609653B2
To a solution of methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate (7.95 g, 14.65 mmol) in dichloromethane (DCM) (130 mL) at 0° C. was added in two portions Dess-Martin periodinane (6.83 g, 16.11 mmol) and the mixture was stirred at ambient temperature for 30 min and then a 20% Na2S2O3/water was added and stirring at ambient temperature continued for 20 min. The mixture was diluted with dichloromethane and the organic phase was washed with NaHCO3/water (2×), dried (Na2SO4), concentrated, purified by chromatography (silica gel, EtOAc/hexanes 0-20% then 100%, product eluted at 20-60%) to provide methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-oxoacetate (5.8 g, 11.10 mmol, 76% yield) as a yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.54-2.64 (m, 3 H), 3.94 (s, 3 H), 5.53 (s, 2 H), 6.39 (d, J=3.71 Hz, 1 H), 6.84-6.95 (m, 1 H), 6.99 (m, 1 H) 7.10 (m, 1 H), 7.28 (d, J=3.52 Hz, 1 H); LCMS (m/z) ES+=471 (M+1).

reactant | methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate | 14.65 mmol, 7.95 g | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C(C(=O)OC)O)C)C=CC=C1F | C18H15F2IN2O3
reactant | Dess-Martin periodinane | 16.11 mmol, 6.83 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2S2O3 water | [O-]S(=O)(=S)[O-].[Na+].[Na+].O
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | methyl 2-(1-(2,3-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-oxoacetate | 11.10 mmol, 5.8 g, 76% yield | FC1=C(CN2C=CC=3C2=NC(=C(C3I)C(C(=O)OC)=O)C)C=CC=C1F | C18H13F2IN2O3
